US08710245B2
(e) Synthesis of 4-(aminomethyl)-4,5,6,7-tetrahydrobenzo[d]thiazol-2-amine
To a solution of (2-amino-4,5,6,7-tetrahydrobenzo[d]thiazol-4-yl)methyl methanesulfonate (3.3 mmol) in DMF (10 mL) was added NaN3 (0.21 g, 3.3 mmol). The resulting mixture was stirred at 85° C. for 30 minutes. The mixture was poured into water (100 mL) and extracted with EtOAc. The organic extract was dried over anhydrous sodium sulfate. After filtration and concentration, the crude product was dissolved in THF (20 mL) and H2O (10 mL), Na2CO3 (0.35 g, 3.3 mmol) and PPh3 (0.8 g, 3 mmol) was added. After stirring overnight, the reaction mixture was diluted with water (100 mL) and then filtered. The filtrate was extracted with EtOAc, and the organic layer was washed with brine and dried over anhydrous sodium sulfate. After filtration and concentration, the crude product was obtained and used directly in the next step without further purification.

reactant | (2-amino-4,5,6,7-tetrahydrobenzo[d]thiazol-4-yl)methyl methanesulfonate | 3.3 mmol | CS(=O)(=O)OCC1CCCC2=C1N=C(S2)N | C9H14N2O3S2
reactant | NaN3 | 3.3 mmol, 0.21 g | [N-]=[N+]=[N-].[Na+]
reactant | Na2CO3 | 3.3 mmol, 0.35 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | PPh3 | 3 mmol, 0.8 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | H2O | 10 mL | O | H2O
solvent | water | 100 mL | O | H2O
solvent | water | 100 mL | O | H2O
product | 4-(aminomethyl)-4,5,6,7-tetrahydrobenzo[d]thiazol-2-amine | NCC1CCCC2=C1N=C(S2)N | C8H13N3S
